US05541324
N-(5-Chloro-2-nitrophenyl)-2-methylalanine methyl ester (XI)
A mixture of N-(5-chloro-2-nitrophenyl)-2-methylalanine (X, EXAMPLE 10, 22.3 g, DMF (260 ml), potassium carbonate (35.6 g), and iodomethane (26.9 ml) is stirred at 20°-25° for 16 hr. Aqueous workup (ether, water and saline washes, drying over magnesium sulfate) gives the title compound, mp 87°-89°; IR (Nujol) 3349, 2954, 2925, 1737, 1606, 1489, 1330, 1263, 1230, 1149 and 752 cm-1 ; NMR (CDCl3) 8.48, 8.15, 6.65, 6.54, 3.77 and 1.69 δ; MS (EI) 272 and 213 m/z.

reactant | N-(5-chloro-2-nitrophenyl)-2-methylalanine | ClC=1C=CC(=C(C1)NC(C)(C(=O)O)C)[N+](=O)[O-] | C10H11ClN2O4
reactant | potassium carbonate | 35.6 g | C([O-])([O-])=O.[K+].[K+]
reactant | iodomethane | 26.9 ml | IC | CH3I
solvent | DMF | 260 ml | CN(C)C=O | C3H7NO
product | N-(5-Chloro-2-nitrophenyl)-2-methylalanine methyl ester | COC(C(NC1=C(C=CC(=C1)Cl)[N+](=O)[O-])(C)C)=O | C11H13ClN2O4
